US08071592B2
(e) 1,1-Dimethylethyl {1-[2-(5,7-difluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate
(5,7-Difluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde (2.1 g; 9.4 mmol) and 1,1-dimethylethyl 4-piperidinylcarbamate (2.82 g; 14.1 mmol) were dissolved in a 1:1 mixture of chloroform and MeOH (60 ml:60 ml) and stirred at rt for 1 h. This was then treated with NaBH(OAc)3 (8.92 g; 42.3 mmol) and stirred for a further 1 h. More 1,1-dimethylethyl 4-piperidinylcarbamate (470 mg; 2.35 mmol) was added and the reaction stirred under the same conditions for 20 mins, this was then treated with NaBH(OAc)3 (1.98 g; 9.4 mmol) and stirred for 25 mins. More 1,1-dimethylethyl 4-piperidinylcarbamate (470 mg; 2.35 mmol) was then added and the reaction stirred for 20 mins. More NaBH(OAc)3 (500 mg; 2.38 mmol) was then added to the reaction and it was stirred overnight at rt. The solvents were then removed and the crude residue purified by column chromatography on silica gel using a 0-15% MeOH/DCM gradient to give the desired product (2 g; 52%).

reactant | (5,7-Difluoro-2-oxo-1(2H)-quinolinyl)acetaldehyde | 9.4 mmol, 2.1 g | FC1=C2C=CC(N(C2=CC(=C1)F)CC=O)=O | C11H7F2NO2
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 14.1 mmol, 2.82 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 42.3 mmol, 8.92 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 2.35 mmol, 470 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 9.4 mmol, 1.98 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 2.35 mmol, 470 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | NaBH(OAc)3 | 2.38 mmol, 500 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 60 ml | CO | CH4O
product | 1,1-Dimethylethyl {1-[2-(5,7-difluoro-2-oxo-1(2H)-quinolinyl)ethyl]-4-piperidinyl}carbamate | 2 g, 52% | FC1=C2C=CC(N(C2=CC(=C1)F)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H27F2N3O3
